US07371743B2
(e) 3-chloro-N-[(1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxy-ethyl]-4-(5-methyl-morpholin-3-on-4-yl)-benzamide
Prepared analogously to Example 1f from 3-chloro-4-(5-methyl-morpholin-3-on-4-yl)-benzoic acid and (1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxy-ethylamine with TBTU and TEA in DMF.

reactant | 3-chloro-4-(5-methyl-morpholin-3-on-4-yl)-benzoic acid | ClC=1C=C(C(=O)O)C=CC1N1C(COCC1C)=O | C12H12ClNO4
reactant | (1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxy-ethylamine | ClC1=CC2=C(NC(=N2)[C@H](COC)N)C=C1 | C10H12ClN3O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-chloro-N-[(1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxy-ethyl]-4-(5-methyl-morpholin-3-on-4-yl)-benzamide | ClC=1C=C(C(=O)N[C@@H](COC)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1N1C(COCC1C)=O | C22H22Cl2N4O4
